US07964618B2
Propanethiol (1.45 mL, 16 mmol) was added to N-(2-adamantyl)-2,6-dichloro-pyridine-3-carboxamide (5.2 g, 16 mmol), and sodium carbonate (5.09 g, 48 mmol) in DMF (50 mL) at 20° C. under nitrogen. The resulting suspension was stirred at 60° C. for 3 hours. The reaction mixture was diluted with EtOAc (400 mL) and washed with water (3×50 mL), and saturated brine (25 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product which was recrystallised from 15% ethyl acetate/hexane to give N-(2-adamantyl)-6-chloro-2-propylsulfanyl-pyridine-3-carboxamide (4.9 g, 84%)

reactant | Propanethiol | 16 mmol, 1.45 mL | C(CC)S | C3H8S
reactant | N-(2-adamantyl)-2,6-dichloro-pyridine-3-carboxamide | 16 mmol, 5.2 g | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C(=NC(=CC2)Cl)Cl | C16H18Cl2N2O
reactant | sodium carbonate | 48 mmol, 5.09 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | N-(2-adamantyl)-6-chloro-2-propylsulfanyl-pyridine-3-carboxamide | 4.9 g, 84% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C(=NC(=CC2)Cl)SCCC | C19H25ClN2OS
